US04236912
2-(4-((6-Fluoro-2-quinolinyl)oxy)phenoxy)propionic acid
2-(4-Hydroxyphenoxy)propionic acid (2.5 gm, 0.0127 mole) was dissolved in 50 ml of DMSO. A solution of sodium hydroxide (1.04 gm, 0.026 mole) in 3.0 ml of water was added and the mixture was stirred for a few minutes to insure complete conversion to the disodium salt. 2-Chloro-6-fluoroquinoline (2.5 gm, 0.0137 mole) was dissolved in 45.0 ml of DMSO and then added all at once to the sodium phenate solution. The reaction mixture was then heated to 125° C. and stirred under nitrogen at this temperature for 1.5 hr. At the end of this time it was cooled and poured into 400 ml of cold water. The aqueous mixture was washed with methylene chloride to remove a small amount of insolubles present and the aqueous layer was separated and acidified to pH 1 with concentrated hydrochloric acid. The phenoxy acid liberated was extracted with methylene chloride. Removal of the solvent left the crude product which was taken up in hot toluene, dried with sodium sulfate and decolorized with "Norite". After removal of about two-thirds of the volume of toluene and addition of hexane, the product, 2-(4-((6-fluoro-2-quinolinyl)oxy)phenoxy)propionic acid, precipitated as a white solid.

reactant | 2-(4-Hydroxyphenoxy)propionic acid | 0.0127 mole, 2.5 gm | OC1=CC=C(OC(C(=O)O)C)C=C1 | C9H10O4
reactant | sodium hydroxide | 0.026 mole, 1.04 gm | [OH-].[Na+]
reactant | disodium | [Na][Na] | 2Na
reactant | 2-Chloro-6-fluoroquinoline | 0.0137 mole, 2.5 gm | ClC1=NC2=CC=C(C=C2C=C1)F | C9H5ClFN
reactant | sodium phenate | C1=CC=C(C=C1)[O-].[Na+]
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | water | 3.0 ml | O | H2O
solvent | DMSO | 45.0 ml | CS(=O)C | C2H6OS
solvent | water | 400 ml | O | H2O
product | 2-(4-((6-Fluoro-2-quinolinyl)oxy)phenoxy)propionic acid | FC=1C=C2C=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)O)C)C=C1 | C18H14FNO4
